US08471005B2
Into a 1-neck round-bottom flask, Cyano-(3-methoxy-4-nitro-phenyl)-acetic acid tert-butyl ester (12.80 g, 43.79 mmol), Methylene chloride (50 g, 600 mmol), and Trifluoroacetic Acid (20 mL, 200 mmol) were added and stirred at room temperature overnight. The solvent was removed under vacuum. The residual TFA was co-evaporated with DCM three times to give brown oil. The reaction was partitioned with saturated NaHCO3 and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with hexane and EtOAc as eluant. The collected fractions afforded as a light brown solid. The solid was triturated with Et2O to give (3-Methoxy-4-nitro-phenyl)-acetonitrile as a light yellow solid (5.20 g, 61%).

reactant | Cyano-(3-methoxy-4-nitro-phenyl)-acetic acid tert-butyl ester | 43.79 mmol, 12.80 g | C(C)(C)(C)OC(C(C1=CC(=C(C=C1)[N+](=O)[O-])OC)C#N)=O | C14H16N2O5
reactant | Methylene chloride | 600 mmol, 50 g | C(Cl)Cl | CH2Cl2
reactant | Trifluoroacetic Acid | 200 mmol, 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (3-Methoxy-4-nitro-phenyl)-acetonitrile | 5.20 g, 61% | COC=1C=C(C=CC1[N+](=O)[O-])CC#N | C9H8N2O3
